US06306895B1
To a solution of benzyloxy prop-2-yne (2.3 g, 16 mmol) in dry THF (25 ml) at −78° C. was added n-BuLi in hexane (10.7 ml, 16 mmol) and the mixture stirred for 20 min. Borontrifluoride etherate (2 ml, 16 mmol) was then added to the solution and stirring continued for 20 min. at −78° C. A THF solution of (S)-glycidol-4-fluorophenyl ether (1.8 g, 10.7 mmol) was added and after stirring for 1 h at −78° C., the reaction was quenched by adding aqueous NH4Cl. The organic materials were extracted with ethyl acetate, dried (Na2SO4) and concentrated under vacuum. The crude product was purified on a silica gel column using EtOAc-light petroleum (1:4) as eluent to give (2S)-6-benzyloxy-1-(4-fluorophenoxy)-hex-4-yn-2-ol (2 g, 65%) as a yellow colour liquid. TLC:ethyl acetate-light petroleum (1:3), Rf=0.4. 1H NMR (CDCl3, 200 MHz): 82.65 (m, 2H), 3.95-4.10 (m, 2H), 4.13-4.21 (m, 3H), 4.6 (s, 2H), 6.8-7.02 (m, 4H), 7.30-7.38 (m, 5H).

reactant | benzyloxy prop-2-yne | 16 mmol, 2.3 g | C(C1=CC=CC=C1)OCC#C | C10H10O
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 16 mmol, 10.7 ml | CCCCCC | C6H14
reactant | Borontrifluoride etherate | 16 mmol, 2 ml | B(F)(F)F.CCOCC
reactant | (S)-glycidol 4-fluorophenyl ether | 10.7 mmol, 1.8 g | C1[C@@H](O1)CO.FC1=CC=C(C=C1)OC1=CC=C(C=C1)F
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (2S)-6-benzyloxy-1-(4-fluorophenoxy)-hex-4-yn-2-ol | 2 g, 65% | C(C1=CC=CC=C1)OCC#CC[C@@H](COC1=CC=C(C=C1)F)O | C19H19FO3
